US06852731B2
N-(4-chlorobenzyl)-2-{[(2-hydroxy-2-quinolin-2-ylethyl)(methyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
A mixture of N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (150 mg, 0.38 mmol), 2-(methylamino)-1-quinolin-2-ylethanol (Preparation 63)(150 mg, 0.74 mmol) and diisopropylethylamine (134 μL, 0.76 mmol) in dry DMF (5 mL) was heated to 60° C., becoming a solution. The reaction was stirred for 6 hours at that temperature. After cooling to room temperature, the solution was diluted with water (15 mL). The resulting milky suspension was stirred vigorously for 30 minutes, and then left standing overnight at room temp. The mixture was filtered, and the collected solid was washed with water and dried in vacuo, leaving a white solid. Recrystallization from acetonitrile (10 mL, dissolved with warming and then cooled to 0° C. overnight) gave the title compound (126 mg) as a white solid.

reactant | N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.38 mmol, 150 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CCl)C)=O)C=C1 | C18H16Cl2N2O2S
reactant | 2-(methylamino)-1-quinolin-2-ylethanol | 0.74 mmol, 150 mg | CNCC(O)C1=NC2=CC=CC=C2C=C1 | C12H14N2O
reactant | diisopropylethylamine | 0.76 mmol, 134 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | N-(4-chlorobenzyl)-2-{[(2-hydroxy-2-quinolin-2-ylethyl)(methyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 126 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CN(C)CC(C3=NC2=CC=CC=C2C=C3)O)C)=O)C=C1 | C30H29ClN4O3S
